US06878704B2
Preparation 10 3,4-Dihydro-2-dimethylamino-4-oxopyrimidine-5-carboxylic acid
Ethyl 3,4-dihydro-2-dimethylamino-4-oxopyrimidine-5-carboxylate (P. Dostert, T Imbert, J F Ancher, M Langlois, B Bucher and G Mocquet, Eur. J. Med. Chem.-Chim. Ther. (1982), 17, 437-44) (0.64 g) was refluxed with NaOH (304 mg) in water (16 ml) for 2 hours. The cooled solution was acidified to pH2 with 1N HCl, solid filtered off and dried under vacuum at 75° C. to give title compound (0.52 g). MS (−ve ion chemical ionisation) m/z 182 ([M−H]−, 100%).

reactant | Ethyl 3,4-dihydro-2-dimethylamino-4-oxopyrimidine-5-carboxylate | 0.64 g | CN(C1=NC=C(C(N1)=O)C(=O)OCC)C | C9H13N3O3
reactant | NaOH | 304 mg | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | water | 16 ml | O | H2O
product | 3,4-Dihydro-2-dimethylamino-4-oxopyrimidine-5-carboxylic acid | 0.52 g | CN(C1=NC=C(C(N1)=O)C(=O)O)C | C7H9N3O3
